US06303612B1
2-(4-(Quinoline-2-ylmethoxy)phenylsulfanyl)phenylacetic Acid (29)
A stirred mixture of methyl 2-(4-hydroxyphenylsulfanyl)phenylacetate (5.0 g, 18.0 mmol), 2-chloromethylquinoline (3.2 g, 18.0 mmol), anhydrous potassium carbonate (6.5 g), potassium iodide (0.2 g), and butan-2-one (70 ml) was refluxed for 8 h. The hot mixture was filtered, the filtration cake was washed with boiling butan-2-one (2×15 ml) and the filtrate was again filtered with charcoal. The solution was evaporated under reduced pressure. The crystalline residue was mixed with methanol (15 ml) and left to stand overnight in a refrigerator. The crystalline methyl ester of the title acid was filtered (5.9 g, 80.8%), m.p. 100-102. 1H NMR spectrum (CDCl3): CH3(OCO) 3.64 s; CH2(COO) 3.83 s; CH2(O) 5.36 s; aromatic H of the quinoline nucleus: H(3) 7.64 d, J=8.8 Hz; H(4) 8.18 d, J=8.8 Hz; H(5) 7.82 dd, J=1.3, 8.5 Hz; H(6) 7.54 m: H(7) 7.73 m; H(8) 8.08 d, J=8.5 Hz; This ester (5.9 g, 14.2 mmol) was suspended in ethanol (75 ml), a solution of potassium hydroxide (1.5 g, 27 mmol) in water (10 ml) was added and the mixture was refluxed 30 min. Then ethanol was evaporated under reduced pressure, the mixture was diluted with water (100 ml) and the cloudy solution was filtered with charcoal. The filtrate was acidified with acetic acid to pH 4.5, the mixture was cooled to 5° C. and the formed precipitate was filtered. The crude product was purified by crystallization from ethanol (120 ml) to give the title acid (3.0 g, 52.6%), m.p. 179-181° C. For C24H19NO3S (401.5) calculated: 71.80% C, 71.80% C, 4.77% H, 3.49% N, 7.99% S; found: 71.67% C, 4.94% H, 3.41% N, 7.77% S. 1H NMR spectrum (DMSO-d6, 60° C.): CH2(COO) 3.77 s; CH2(O) 5.38 s; aromatic H of the quinoline nucleus: H(3) 7.67 d, J=8.2 Hz; H(4) 8.40 d, J=8.2 Hz; H(5) 8.03 d, J=8.5 Hz; H(6) 7.78 m; H(7) 7.61 m; H(8) 7.98 dd, J=0.9, 8.5 Hz;

reactant | methyl 2-(4-hydroxyphenylsulfanyl)phenylacetate | 18.0 mmol, 5.0 g | OC1=CC=C(C=C1)SC1=C(C=CC=C1)CC(=O)OC | C15H14O3S
reactant | 2-chloromethylquinoline | 18.0 mmol, 3.2 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | potassium carbonate | 6.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
reactant | potassium hydroxide | 27 mmol, 1.5 g | [OH-].[K+]
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
solvent | butan-2-one | 70 ml | CC(CC)=O | C4H8O
product | 2-(4-(Quinoline-2-ylmethoxy)phenylsulfanyl)phenylacetic Acid | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)SC1=C(C=CC=C1)CC(=O)O | C24H19NO3S
